US04906643
A mixture of 1.56 parts of 2-(methylthio)-4-pyrimidinol, 3.7 parts of cis-4-amino-N-[1-(3-aminopropyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide and 64 parts of acetonitrile was stirred for 40 hours at reflux temperature. Another portion of 0.7 parts of 2-(methylthio)-4-pyrimidinol was added and stirring was continued over weekend at reflux temperature. The reaction mixture was evaporated. The residue was taken up in trichloromethane. The whole was washed with water, saturated with ammonium hydroxide, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.82 parts (39.5%) of cis-4-amino-5-chloro-N-[1-[3-[(4-hydroxy-2-pyrimidinyl)amino]propyl]-3-methoxy-4-piperidinyl]- 2-methoxybenzamide monohydrate; mp. 134.2° C. (compound 42).

reactant | 2-(methylthio)-4-pyrimidinol | CSC1=NC=CC(=N1)O | C5H6N2OS
reactant | cis-4-amino-N-[1-(3-aminopropyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCN)OC)C=C1Cl)OC | C17H27ClN4O3
solvent | acetonitrile | C(C)#N | C2H3N
product | cis-4-amino-5-chloro-N-[1-[3-[(4-hydroxy-2-pyrimidinyl)amino]propyl]-3-methoxy-4-piperidinyl]- 2-methoxybenzamide monohydrate | 39.5% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCNC2=NC=CC(=N2)O)OC)C=C1Cl)OC | InChI=1S/C21H29ClN6O4.H2O/c1-31-17-11-15(23)14(22)10-13(17)20(30)26-16-5-9-28(12-18(16)32-2)8-3-6-24-21-25-7-4-19(29)27-21;/h4,7,10-11,16,18H,3,5-6,8-9,12,23H2,1-2H3,(H,26,30)(H2,24,25,27,29);1H2/t16-,18+;/m0./s1
